US09416101B2
4-(chlorosulfonyl)benzoic acid (500 mg, 2.27 mmol) was treated with N-methylaniline (729 mg, 6.8 mmol) using method A to give 4-(N-methyl-N-phenylsulfamoyl)benzoic acid as an off-white solid. Yield: 374 mg (57%). 1H-NMR: 8.09 (d, J=8.5 Hz, 2H), 7.62 (d, J=8.5 Hz, 2H), 7.38-7.28 (m, 3H), 7.13-7.08 (m, 2H), 3.17 (s, 3H).

reactant | 4-(chlorosulfonyl)benzoic acid | 2.27 mmol, 500 mg | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | N-methylaniline | 6.8 mmol, 729 mg | CNC1=CC=CC=C1 | C7H9N
product | 4-(N-methyl-N-phenylsulfamoyl)benzoic acid | CN(S(=O)(=O)C1=CC=C(C(=O)O)C=C1)C1=CC=CC=C1 | C14H13NO4S
